US07795262B2
Step 2. Preparation of tert-butyl 4-chloro-5,6,8,9-tetrahydro-7H-pyrimido[4,5-d]azepine-7-carboxylate
A mixture of tert-butyl 4-hydroxy-5,6,8,9-tetrahydro-7H-pyrimido[4,5-d]azepine-7-carboxylate (4.3 g, 16.2 mmol) and POCl3 (2.3 ml) in toluene (30 mL) is heated at 90° C. for 1 hr. The solvent is removed in vacuo and EtOAc (30 ml) and water (30 ml) are added to the residue. NaHCO3 is carefully added until the pH of the aqueous layer is greater than 7. The layers are separated and the aqueous layer is extracted with EtOAc (2×30 ml). The combined extracts are washed with brine (50 ml) and dried (Na2SO4), and the solvent is evaporated. Flash column purification of the residue with EtOAc/hexane (6:1) provides the title compound as a light yellow solid.

reactant | tert-butyl 4-hydroxy-5,6,8,9-tetrahydro-7H-pyrimido[4,5-d]azepine-7-carboxylate | 16.2 mmol, 4.3 g | OC1=NC=NC=2CCN(CCC21)C(=O)OC(C)(C)C | C13H19N3O3
reactant | POCl3 | 2.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-chloro-5,6,8,9-tetrahydro-7H-pyrimido[4,5-d]azepine-7-carboxylate | ClC1=NC=NC=2CCN(CCC21)C(=O)OC(C)(C)C | C13H18ClN3O2
